US04166813
Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropyl}1,2-cyclohexanedicarboxylate (Compound No. 227)
A mixture of 5 g of 4-butylamino-2,2,6,6-tetramethylpiperidine and 3 g of bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate in 10 ml of t-butanol was refluxed, with stirring, for 8 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure and the resulting residue was purified by column chromatography through silica gel eluted with a 20:1 by volume mixture of ethyl acetate and triethylamine. The desired compound was obtained in the form of a pale yellow, viscous oil having an Rf value of 0.53 on thin layer chromatography on silica gel developed with a 5:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 4-butylamino-2,2,6,6-tetramethylpiperidine | 5 g | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
reactant | bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate | 3 g | O1C(COC(=O)C2C(CCCC2)C(=O)OCC2CO2)C1 | C14H20O6
solvent | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropyl}1,2-cyclohexanedicarboxylate | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)CC(COC(=O)C1C(CCCC1)C(=O)OCC(CN(C1CC(NC(C1)(C)C)(C)C)CCCC)O)O | C40H76N4O6
